2141-07-04 07:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: s/p Afib ablation yesterday
   24 Hour Events:
   - Repeat HCT @3am after 2 units PRBC =29.3
   - Coumadin held overnight (INR 2.8), will recheck INR in morning
   - Weaned off neo, restarted sotalol 120mg [**Hospital1 **]
   -Post-cath check: groin sites ok, midline pelvic/abd pain from hematoma
   decreasing, area tender to palpation is comparatively smaller.
 OR RECEIVED - At [**2141-7-3**] 06:15 PM
   recived from pacu
 ARTERIAL LINE - START [**2141-7-3**] 06:30 PM
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsCalcium Channel Blocking
   Agents-Benzothiazepines
   heart block;
   Statins-Hmg-Coa Reductase Inhibitors
   severe muscle a
   Nexium (Oral) (Esomeprazole Mag Trihydrate)
   Pt. believes th
   Amiodarone
   extreme tremors
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   + Abdominal/pelvic pain
   Flowsheet Data as of  [**2141-7-4**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.8
C (98.2
   HR: 76 (76 - 88) bpm
   BP: 112/47(67) {96/43(60) - 131/64(86)} mmHg
   RR: 17 (11 - 21) insp/min
   SpO2: 98% on 2L
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
                  Total In:
                                                                  4,940 mL
                                                                    540 mL
   PO:
                                                                    300 mL
                                                                    540 mL
   TF:
   IVF:
                                                                  4,516 mL
   Blood products:
                                                                    125 mL
   Total out:
                                                                  1,445 mL
                                                                    220 mL
   Urine:
                                                                    330 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,495 mL
                                                                    320 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 2L
   SpO2: 98%
   ABG: 7.37/37/72/22/
   Physical Examination
   VS: T=99.5  BP=131/64  HR=85 RR=12  O2 sat=99% on 2L NC
   GENERAL: WDWN F in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of <10 cm.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. II/VI systolic murmur throughout precordium, no
   rubs/gallops. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft but tender to palpation over left lower abdomen to
   midline, 3-4cm below umbilicus. No HSM or tenderness. Abd aorta not
   enlarged by palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits. Femoral sites oozing.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: DP 1+ PT 1+
   Left: DP 1+ PT 1+
   Labs / Radiology
   178 K/uL
   10.9 g/dL
   145 mg/dL
   0.8 mg/dL
   22 mEq/L
   4.3 mEq/L
   15 mg/dL
   107 mEq/L
   136 mEq/L
   31.9 %
   14.9 K/uL
        [image002.jpg]
                             [**2141-7-3**]  09:01 PM
                             [**2141-7-4**]  03:31 AM
                                   [**2141-7-3**]
                                   8:53 am
   WBC
   14.9
   9.0
   Hct
   36.0
   31.9
   13.4
   Plt
   178
   284
   Cr
   0.8
   0.8
   Glucose
   145
   112
   Other labs: PT / PTT / INR:28.8/31.5/2.8, Ca++:7.6 mg/dL, Mg++:1.4
   mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   79-year-old female with a longstanding history of paroxysmal atrial
   fibrillation, HTN, and hyperlipidemia with increasing symptomatic afib
   s/p PVI c/b large pelvic hematoma.
   .
   # RHYTHM: s/p PVI for atrial fibrillation. After procedure, patient
   currently in sinus rhythm, with old LBBB. Pt continues to be
   therapeutic on coumadin with INR 2.8 this morning
   - restart sotalol at lower dose of 120 [**Hospital1 **] (home dose is 160mg PO BID)
   per EP recs
   - recheck ECG in am, monitor on tele
   - recheck INR in afternoon, consider restarting coumadin if INR
   decreased <2.3, once bleed stabilized.
   # PELVIC HEMATOMA: Complication of PVI procedure. Measured at 12x 5 cm
   on CT wet read, with no retroperitoneal bleeding. 2 units PRBC given
   post-procedure, Hct bumped initially to 2 units from 29.4-> 36.0, but
   3am labs show Hct 31.9. 3am Hct of 31.9 likely more indicative of Hct
   after equilibration, indicating Hct did not increase appropriately. In
   the setting of hemodilution with IVF during/after procedure and
   therapeutic INR, she may have continued bleeding. Exam difficult to
   assess for expansion of hematoma.
   - recheck Hct now, then noon Hct
   - monitor physical exam for signs of bleeding or expansion of hematoma,
   monitor vitals (BP, HR)
   - tranfuse today if Hct < 30 due to active bleeding
   - repeat CT scan to make sure hematoma is not enlarging and f/u final
   read of CT abdomen/pelvis from yesterday
   - Pain control with Tylenol #3
   - Check afternoon Coags; if INR<2.3, and bleed stabilized, consider
   restarting coumadin
   # PUMP: Pt has preserved EF>60%. Pt appears euvolemic, no evidence of
   overload on exam. Exam c/w adequate peripheral perfusion.
   - monitor clinical exam for signs of overload
   - strict I/Os, daily weights
   .
   # CORONARIES: Status of coronaries not documented; had cath in past,
   but results unknown, no mention of CAD or PCI. Risk factors include HTN
   and hyperlipidemia.
   .
   # TRANSIENT HYPOTENSION: During procedure became hypotensive, on
   transfer was on 0.8 of neosynephrine, but weaned off pressors soon
   after arrival.
   - resolved
   - if remains stable, w/ SBPs >120, restart metoprolol and valsartan as
   tolerated
   .
   # GERD: not currently active.
   - continue ranitidine 150mg PO BID.
   .
   #  Hyperlipidemia: stable; not currently treated with statins.
   .
   #FEN: Cardiac Heart healthy diet.
   .
   COMM: [**Name (NI) 711**] [**Name (NI) 463**] (husband): [**Telephone/Fax (1) 7682**]
   DISPO: CCU for now
   ICU Care
   Nutrition: Cardaic Heart-healthy diet
   Glycemic Control:  monitor Glucose
   Lines:
   Arterial Line - [**2141-7-3**] 06:30 PM
 can consider removing depending
   on Hct
   18 Gauge - [**2141-7-3**] 06:31 PM
   20 Gauge - [**2141-7-3**] 06:32 PM
   Prophylaxis:
   DVT: Therapeutic on coumadin
   Stress ulcer: Ranitidine
   VAP:
   Comments:
   Communication:  Comments: Husband [**Name (NI) 4396**] [**Telephone/Fax (1) 7682**]
   [**Name2 (NI) 156**] status: FULL code, ICU consent signed
   Disposition: CCU for now
   ------ Protected Section ------
   Patient, seen, discussed and examined withDr.Rose and housestaff, agree
   with assessment and plan. Repeat HCT was low and more blood given. CT
   shows slightly larger hematoma so coumadin being reversed a little-need
   to keep INR ~2. No atrial fib.
   Mainly now needs pain management.
   30 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 362**] [**Name8 (MD) 2830**], MD
   on:[**2141-7-4**] 17:16 ------

2141-07-05 07:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Abdominal/pelvic Pain, L pelvic hematoma
   24 Hour Events:
   [**2141-7-4**]:
   - Received 2 units PRBC and was given 2mg po vitamin K per EP recs
   (with a goal INR of 2.0).  9PM Hct 28.1, so transfused another 2
   units.  3AM Hct 34.3, INR 1.8.
   - Some pain control issues during the afternoon/night, responded well
   to oxycodone 5-10mg q4h prn.
   - CT Pelvis prelim read showed slight (~20%) increase in hematoma from
   12x 5 cm  to 14.7 x 6.8cm, extending into abdomen.  No surgical/IR
   intervention at this time.
   Allergies:
   Calcium Channel Blocking Agents-Benzothiazepines
   heart block;
   Statins-Hmg-Coa Reductase Inhibitors
   severe muscle a
   Nexium (Oral) (Esomeprazole Mag Trihydrate)
   Pt. believes th
   Amiodarone
   extreme tremors
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-7-5**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.6
C (99.6
   HR: 74 (72 - 81) bpm
   BP: 123/51(75) {106/45(66) - 147/59(88)} mmHg
   RR: 15 (11 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
                  Total In:
                                                                  1,800 mL
                                                                    350 mL
   PO:
                                                                    540 mL
                  TF:
   IVF:
                                                                    160 mL
   Blood products:
                                                                  1,100 mL
                                                                    350 mL
   Total out:
                                                                    770 mL
                                                                    145 mL
   Urine:
                                                                    770 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,030 mL
                                                                    205 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   GENERAL: WDWN F in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of <10 cm.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. II/VI systolic murmur throughout precordium, no
   rubs/gallops. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft but tender to palpation over left lower abdomen to
   midline, 3-4cm below umbilicus. No HSM or tenderness. Abd aorta not
   enlarged by palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits. Femoral sites oozing.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: DP 1+ PT 1+
   Left: DP 1+ PT 1+
   Labs / Radiology
   132 K/uL
   11.6 g/dL
   123 mg/dL
   0.5 mg/dL
   25 mEq/L
   4.0 mEq/L
   13 mg/dL
   102 mEq/L
   133 mEq/L
   34.3 %
   12.7 K/uL
        [image002.jpg]
                             [**2141-7-3**]  09:01 PM
                             [**2141-7-4**]  03:31 AM
                             [**2141-7-4**]  09:56 AM
                             [**2141-7-4**]  06:19 PM
                             [**2141-7-4**]  09:54 PM
                             [**2141-7-5**]  03:33 AM
   WBC
   14.9
   12.7
   Hct
   36.0
   31.9
   29.2
   32.8
   28.1
   34.3
   Plt
   178
   132
   Cr
   0.8
   0.5
   Glucose
   145
   123
   Other labs: PT / PTT / INR:19.2/29.2/1.8, Ca++:8.0 mg/dL, Mg++:2.0
   mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 79-year-old female with a longstanding history of paroxysmal atrial
   fibrillation, HTN, and hyperlipidemia with increasing symptomatic afib
   s/p PVI c/b large pelvic hematoma.
   .
   # PELVIC HEMATOMA: Complication of PVI procedure in setting of
   therapeutic INR on coumadin. Expanded in size from 12x 5 cm
  14.7 x
   6.8cm on CT wet read  yesterday late morning (~20% increase),
   indicating continued bleeding. 2 units PRBC and Vit K given early
   afternoon, Hct bumped ~3.6 points to 32.8, but 9pm labs showed Hct
   28.1. Transfused another 2 units last night, 3am Hct of 34.3, which may
   be too early to reflect Hct after equilibration. If morning Hct comes
   down below 32.1, likely she has continuing bleeding into hematoma in
   setting of elevated INR. Total Units given =6 this hospital admission.
   - recheck 7:30 Hct, follow serial Hct
s q 6 hours
   - monitor physical exam for increasing abdominal distension, monitor
   vitals (BP, HR)
   - transfuse today if Hct < 30 due to active bleeding.
   -If active bleeding continues, get Vascular or IR consult
   - f/u final read of CT abdomen/pelvis from yesterday
   - Pain control with Oxycodone
   - Check morning Coags; last INR 1.8 <2.0; consider restarting coumadin
   to prevent thrombosis when Hct stable
   - Check Lactate secondary to severe tenderness.
   # RHYTHM: s/p PVI for atrial fibrillation. After procedure, patient has
   been stable in sinus rhythm, with old LBBB. Pt
s INR 1.8<2.0, below
   therapeutic range on coumadin; should be therapeutic to prevent
   thrombosis in setting of recent atrial ablation.
   - Continue sotalol at lower dose of 120 [**Hospital1 **] per EP recs
   - recheck ECG in am, monitor on tele
   - Restart coumadin once bleeding stabilized.
   # PUMP: Pt has preserved EF>60%. Pt appears euvolemic, no evidence of
   overload on exam. Exam c/w adequate peripheral perfusion.
   - monitor clinical exam for signs of overload
   - strict I/Os, daily weights
   .
   # CORONARIES: Status of coronaries not documented; had cath in past,
   but results unknown, no mention of CAD or PCI. Risk factors include HTN
   and hyperlipidemia.
   .
   #Hypertension: Currently BP
s in 110-130
s, controlled on meds.
   # GERD: not currently active.
   - continue ranitidine 150mg PO BID.
   # Constipation: Will increase bowel regimen.
   - Monitor Bowels today
   .
   #  Hyperlipidemia: stable; not currently treated with statins.
   ICU Care
   Nutrition: Cardaic/heart healthy diet
   Glycemic Control:  check Glucose w/ chem. 7
   Lines:
   Arterial Line - [**2141-7-3**] 06:30 PM
   18 Gauge - [**2141-7-3**] 06:31 PM
   20 Gauge - [**2141-7-3**] 06:32 PM
   Prophylaxis:
   DVT: therapeutic INR on coumadin; hold until bleeding resolved, will
   start pneumoboots
   Stress ulcer: on ranitidine
   VAP:
   Comments:
   Communication:  Comments: with pt, her husband [**First Name4 (NamePattern1) **]
   [**Last Name (NamePattern1) 156**] status: Full code
   Disposition: CCU for now

2141-07-06 08:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour
   [**2141-7-5**]:
   - Hct trended from 34.3 -> 34.4 -> 32.7 -> 31.0 --> 28.0 (11:30pm)
   -->31.6 5am
   -Given another unit PRBCs at midnight
   -10mg Lasix bolus for crackles at bases, SOB.
   - Lactate normal at 1.3
   - INR 1.5 -> 1.3
 1.2
1.3 coumadin restarted in evening
   Allergies:
   Calcium Channel Blocking Agents-Benzothiazepines
   heart block;
   Statins-Hmg-Coa Reductase Inhibitors
   severe muscle a
   Nexium (Oral) (Esomeprazole Mag Trihydrate)
   Pt. believes th
   Amiodarone
   extreme tremors
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2141-7-5**] 09:00 PM
   Ranitidine (Prophylaxis) - [**2141-7-5**] 09:00 PM
   Furosemide (Lasix) - [**2141-7-6**] 05:45 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-7-6**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.8
   HR: 72 (71 - 76) bpm
   BP: 123/47(71) {113/41(65) - 140/57(84)} mmHg
   RR: 16 (11 - 20) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.8 kg (admission): 68 kg
   Height: 66 Inch
                  Total In:
                                                                    740 mL
                                                                    380 mL
   PO:
                                                                    390 mL
                                                                     30 mL
   TF:
   IVF:
   Blood products:
                                                                    350 mL
                                                                    350 mL
   Total out:
                                                                    635 mL
                                                                  1,210 mL
   Urine:
                                                                    635 mL
                                                                  1,210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    105 mL
                                                                   -830 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 3L
   SpO2: 94%
   ABG: ///22/
   Physical Examination
   GENERAL: WDWN F in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of [**11-2**] cm.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2, occasional PAC
s. II/VI systolic murmur throughout
   precordium, no rubs/gallops. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities. Resp were unlabored, no accessory
   muscle use. Bilateral crackles at bases, w/o wheezes or rhonchi.
   ABDOMEN: Softly distended but tender to palpation over left lower
   abdomen to midline, 3-4cm below umbilicus. No HSM. Abd aorta not
   enlarged by palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits. Femoral sites intact.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: DP 1+ PT 1+
   Left: DP 1+ PT 1+
   Labs / Radiology
   164 K/uL
   11.4 g/dL
   99 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.6 mEq/L
   11 mg/dL
   107 mEq/L
   137 mEq/L
   31.6 %
   11.9 K/uL
        [image002.jpg]
                             [**2141-7-4**]  03:31 AM
                             [**2141-7-4**]  09:56 AM
                             [**2141-7-4**]  06:19 PM
                             [**2141-7-4**]  09:54 PM
                             [**2141-7-5**]  03:33 AM
                             [**2141-7-5**]  07:43 AM
                             [**2141-7-5**]  12:13 PM
                             [**2141-7-5**]  06:09 PM
                             [**2141-7-5**]  11:47 PM
                             [**2141-7-6**]  05:06 AM
   WBC
   14.9
   12.7
   11.9
   Hct
   31.9
   29.2
   32.8
   28.1
   34.3
   34.4
   32.7
   31.0
   28.0
   31.6
   Plt
   178
   132
   164
   Cr
   0.8
   0.5
   0.5
   Glucose
   145
   123
   99
   Other labs: PT / PTT / INR:14.6/25.7/1.3, Lactic Acid:1.3 mmol/L,
   Ca++:7.1 mg/dL, Mg++:1.6 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   79-year-old female with a longstanding history of paroxysmal atrial
   fibrillation, HTN, and hyperlipidemia with increasing symptomatic afib
   s/p PVI c/b large pelvic hematoma.
   .
   # PELVIC HEMATOMA: Bleeding ongoing with Hcts continuing to drop slowly
   in setting of elevated but not therapeutic INR. 1 unit PRBC given
   overnight, Hct bumped from 28.0 to 31.6 this morning, showing
   appropriate increase; possibly indicates decreased bleeding. Normal
   lactate indicates no abdominal ischemia. Total Units given =7 this
   hospital admission.
   - follow serial Hct
s q 6 hours
   - transfuse again if Hct < 27 indicating active bleeding, one unit
   RBCs, with lasix
   -If active bleeding continues, consider Vascular or IR consult
   - monitor physical exam for increasing abdominal distension, monitor
   vitals (BP, HR)
   - f/u final read of CT abdomen/pelvis
   - Pain control with Oxycodone
   - Check Coags; last INR 1.3 <2.0; continue coumadin to prevent
   thrombosis per EP recs
   # RHYTHM: s/p PVI for atrial fibrillation. After procedure, patient has
   been stable in sinus rhythm, with old LBBB, and Pt having occasional
   PACs since this morning. Pt
s INR 1.3<2.0, below therapeutic range on
   coumadin; continue coumadin to achieve therapeutic INR to prevent
   thrombosis in setting of recent atrial ablation.
   - Continue sotalol at lower dose of 120 [**Hospital1 **] per EP recs
   - recheck ECG in am, monitor on tele
   - Continue coumadin unless bleeding increased.
   # PUMP: Pt has preserved EF>60%. Pt appears hypervolemic, evidence of
   overload on exam w/ bibasilar crackles, subjective SOB. UOP with 10mg
   IV lasix was good. Likely due to 7units of blood given.
   -If continues with crackles, give additional 10mg IV bolus of lasix
   -
   - Continue to monitor clinical exam for signs of overload
   - strict I/Os, with goal of  down 1 L, daily weights
   .
   # CORONARIES: Status of coronaries not documented; had cath in past,
   but results unknown, no mention of CAD or PCI. Risk factors include HTN
   and hyperlipidemia.
   .
   # Electrolytes: Magnesium and Potassium depleted slightly, pt usually
   takes PO K and Mg q HS at home.
   -Replete K PO 40mg and Mg IV 4g
   #Hypertension: Currently BP
s in 110-130
s, controlled on meds.
   # GERD: not currently active.
   - continue ranitidine 150mg PO BID.
   # Constipation: Will increase bowel regimen w/ miralax.
   - Monitor Bowels today
   .
   #  Hyperlipidemia: stable; not currently treated with statins.
   ICU Care
   Nutrition: heart healthy cardiac, but not eating much
   Glycemic Control:
   Lines:
   Arterial Line - [**2141-7-3**] 06:30 PM
   18 Gauge - [**2141-7-3**] 06:31 PM
   20 Gauge - [**2141-7-3**] 06:32 PM
   Prophylaxis:
   DVT: restarted coumadin, pneumatic boots
   Stress ulcer: ranitidine
   VAP:
   Comments:
   Communication:  Comments: with pt, and husband [**Name (NI) 4396**]
   [**Name (NI) 156**] status: Full code
   Disposition: CCU for now

2141-07-07 07:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Increasing Palpitations
   24 Hour Events:
   - Hct 31.6 (5am yest)-->34.4--> 32.9-->33.0-->29.8 (5am today)
   - Foley and A-line d/c'd overnight
   - INR 1.9 this am
   - Abdominal Pain and distension improving, had BM
   - Pt. describes numbness on L lateral thigh since this morning; similar
   to pain she
s had before w/ back pain
   Allergies:
   Calcium Channel Blocking Agents-Benzothiazepines
   heart block;
   Statins-Hmg-Coa Reductase Inhibitors
   severe muscle a
   Nexium (Oral) (Esomeprazole Mag Trihydrate)
   Pt. believes th
   Amiodarone
   extreme tremors
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2141-7-6**] 11:45 AM
   Coumadin (Warfarin) - [**2141-7-6**] 04:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-7-7**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.3
C (99.2
   HR: 71 (68 - 93) bpm
   BP: 112/54(68) {112/54(68) - 112/54(68)} mmHg
   RR: 14 (14 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.5 kg (admission): 68 kg
   Height: 66 Inch
                  Total In:
                                                                  1,010 mL
                  PO:
                                                                    660 mL
                  TF:
   IVF:
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,540 mL
                                                                    655 mL
   Urine:
                                                                  2,540 mL
                                                                    655 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,530 mL
                                                                   -655 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   GENERAL: WDWN F in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of [**12-3**] cm, veins not distended.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2, occasional PAC
s. II/VI systolic murmur throughout
   precordium, no rubs/gallops. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities. Resp were unlabored, no accessory
   muscle use. No crackles auscultated at bases, no wheezes or rhonchi.
   ABDOMEN: Softly distended and tender to palpation but improved since
   yesterday. No HSM. Abd aorta not enlarged by palpation. No abdominial
   bruits.
   EXTREMITIES: No c/c/e. No femoral bruits. Femoral sites intact.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   NEURO: numbness on L lateral thigh. Strength 5/5, all other WNL.
   PULSES:
   Right: DP 1+ PT 1+
   Left: DP 1+ PT 1+
   Labs / Radiology
   186 K/uL
   10.5 g/dL
   114 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.0 mEq/L
   16 mg/dL
   101 mEq/L
   136 mEq/L
   29.8 %
   11.7 K/uL
        [image002.jpg]
                             [**2141-7-5**]  03:33 AM
                             [**2141-7-5**]  07:43 AM
                             [**2141-7-5**]  12:13 PM
                             [**2141-7-5**]  06:09 PM
                             [**2141-7-5**]  11:47 PM
                             [**2141-7-6**]  05:06 AM
                             [**2141-7-6**]  11:29 AM
                             [**2141-7-6**]  06:13 PM
                             [**2141-7-6**]  11:19 PM
                             [**2141-7-7**]  05:11 AM
   WBC
   12.7
   11.9
   11.7
   Hct
   34.3
   34.4
   32.7
   31.0
   28.0
   31.6
   34.4
   32.9
   33.0
   29.8
   Plt
   132
   164
   186
   Cr
   0.5
   0.5
   0.7
   0.6
   Glucose
   123
   99
   119
   114
   Other labs: PT / PTT / INR:20.6/30.6/1.9, Lactic Acid:1.3 mmol/L,
   Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   79-year-old female with a longstanding history of paroxysmal atrial
   fibrillation, HTN, and hyperlipidemia with increasing symptomatic afib
   s/p PVI c/b large pelvic hematoma.
   .
   # PELVIC HEMATOMA: Bleeding appears stable with Hcts continuing in low
   30
s; slight drop this a.m. to 29.8, but has been stable throughout day
   yesterday.  INR up to 1.9, increasing risk for rebleeding. Total Units
   given =7 this hospital admission.
   - check Hct at 2pm today, then follow serial Hct
s as indicated
   - transfuse again if Hct < 27 indicating active bleeding, one unit
   RBCs, with lasix
   - Decrease Coumadin to 5mg po daily as INR approaching therapeutic
   level
   - If active bleeding restarts, consider Vascular or IR consult
   - Pain control with Oxycodone PRN
   .
   # RHYTHM: s/p PVI for atrial fibrillation. After procedure, patient
   continues to be stable in sinus rhythm, with old LBBB, and  occasional
   PACs. Pt
s INR 1.9<2.0, just below therapeutic range on coumadin;
   continue coumadin to achieve therapeutic INR to prevent thrombosis in
   setting of recent atrial ablation.
   - Continue sotalol at lower dose of 120 [**Hospital1 **] per EP recs. Ask for recs
   re: home dosing of sotalol.
   - ECG in am, monitor on tele
   - last INR 1.9 <2.0; continue coumadin to prevent thrombosis, but
   decrease dose to 5mg q day
   .
   # PUMP: Pt has preserved EF>60%. Pt still appears hypervolemic w/ JVD
   [**12-3**], but sx decreased since yesterday; no continued subjective SOB.
   UOP with 10mg IV lasix x2 yesterday was good. Overload likely result of
   7units of blood given.
   - If O2 sats drop <93%, give another 10mg IV lasix
   - Continue to monitor clinical exam for signs of overload
   - strict I/Os, with goal of  down 500mL, daily weights
   .
   #L THIGH NUMBNESS: Pt describes numbness on L lateral thigh, which is
   similar to a previous sensation during episode of back pain.
   Distribution is L lateral cutaneous nerve/L2-L3. In setting of
   decreased INR over previous few days and risk of thrombosis due to L
   atrial ablation procedure, must consider thrombosis as etiology.
   However, considering no other signs of thromosis, no pain, good pulses,
   warm extremities, no skin changes, this is unlikely thrombotic event.
   Considering previous episode and specific nerve distribution, more
   likely nerve impingement vs sciatic sx.
   -continue to monitor
   .
   # CORONARIES: Status of coronaries not documented; had cath in past,
   but results unknown, no mention of CAD or PCI. Risk factors include HTN
   and hyperlipidemia.
   .
   #Hypertension: Currently BP
s in 110-130
s, controlled on meds.
   # GERD: not currently active.
   - continue ranitidine 150mg PO BID.
   # Constipation: 1 BM achieved; colon not obstructed by hematoma
   - Continue bowel regimen w/ miralax.
   -Increased time OOB, PT consult today
   .
   #  Hyperlipidemia: stable; not currently treated with statins.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-7-6**] 12:00 PM
   Prophylaxis:
   DVT: Coumadin, pneumatic boots
   Stress ulcer: ranitidine
   VAP:
   Comments:
   Communication:  Comments: w/ pt, husband [**First Name4 (NamePattern1) **]
   [**Last Name (NamePattern1) 156**] status: FULL code
   Disposition: CCU this am ; call out in afternoon if Hct stable.